Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
binocular diplopia 

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr ___ is a ___ right handed man with PMH significant for
relapse remitting multiple sclerosis and HLD who presented for
transient binocular diplopia. The patient was at home in 
___
looking out at the water. Around 11am he noticed that the
sailboats had two masts. When he would close either eye there 
was
one mast, but with both eyes open there were two. He did not
notice this problem when looking at near objects. He did not
notice if this was worse when looking to the left or right. The
diplopia lasted about 3 hours and resolved around the time that
an ambulance arrived to pick him up. He was taken to ___
where a CT of the brain was abnormal - prompting transfer to
___. 

The patient does not that about 1 month ago he had similar
symptoms of diplopia but can not recall the details

Of note yesterday morning the patient was out walking with a
friend when he stepped on his own shoelace and fell forward on
his knees and left wrist. He did not seek medical attention at
that time. 

The patient reports that he was diagnosed with MS about ___ years
ago. He has chronic left sided weakness and some numbness of the
left leg. He is followed by Dr. ___ in ___
(part of ___ - he thinks). He does not recall vision
symptoms in the past with his MS. ___ patient was told at some
point that he had a stroke but he can not recall the details. 

The patient reports Dx of Lyme disease after tic bite 6 mo ago

On neuro ROS: the pt denies headache, loss of vision, blurred
vision, oscilopsia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech. Denies new focal weakness,
numbness, paresthesias. No bowel or bladder incontinence or
retention. 

On general ROS: the pt denies recent fever or chills. No night
sweats or recent weight loss or gain. Denies cough, shortness of
breath. Denies chest pain or tightness, palpitations. Denies
nausea, vomiting, diarrhea, constipation or abdominal pain. No
recent change in bowel or bladder habits. No dysuria. Denies
arthralgias or myalgias. Denies rash.

 
Past Medical History:
Relapse remitting multiple sclerosis follow by Dr. ___ 
HLD

 
Social History:
___
Family History:
NC
 
Physical Exam:
Admission physical exam:
MEDICAL EXAMINATION
T: 97.3 HR: 64 BP: 166/91 RR: 16 Sat: 98% on RA 

GENERAL MEDICAL EXAMINATION:
General appearance: alert, in no apparent distress
HEENT: Sclera are non-injected. Mucous membranes are moist. 
CV: Heart rate is regular
Lungs: Breathing comfortably on RA 
Abdomen: soft, non-tender 
Extremities: No evidence of deformities. No contractures. No
Edema. 
Skin: No visible rashes. Warm and well perfused.

NEUROLOGICAL EXAMINATION:
Mental Status: Alert and oriented to person place and time. Able
to relate history though forgetful of details (names and
specifics of timeline). Grossly inattentive during conversation,
distracted by noises in the ED. He was able to name ___ backward
but slowly. Language is fluent and appropriate with intact
comprehension, repetition and naming of both high and low
frequency objects. Normal prosody. There were no paraphasic
errors. Speech was not dysarthric. Able to follow both midline
and appendicular commands. No neglect, left/right confusion or
finger agnosia. Frontal in his interactions (making 
inappropriate
jokes and comments) 

Cranial Nerves:
I: not tested
II:  left pupil is not round, both are reactive to light. Visual
fields full to finger counting. 
III-IV-VI: Normal conjugated, extra-ocular eye movements in all
directions of gaze. No nystagmus or diplopia. cover/uncover and
alternating cover testing was unremarkable.
V: Symmetric perception of LT in V1-3 
VII: Face is symmetric at rest and with activation; symmetric
speed and excursion with smile.
VIII: Hearing intact to finger rub bl
IX-X: Palate elevates symmetrically
XI: Shoulder shrug ___ bl 
XII: No tongue deviation or fasciculations

Motor: Normal muscle bulk and tone throughout. Subtle pronator
drift on the left. No asterixis or myoclonus noted.
Strength:
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  4+  5    4+ 5     5     4+  
R  5    ___   ___  5   5    5  5     5     5  

Reflexes: somewhat brisker on the left with crossed adductors on
the left. 

Sensory: decreased perception of LT and temp in left leg. No
extinction to DSS.

Coordination: Finger to nose without dysmetria bilaterally. No
intention tremor. RAM were slower and mildly clumsy on the left. 


Gait: unable to test in the ED 

Discharge physical exam: 
Unchanged
 
Pertinent Results:
LABS:
___ 06:30AM BLOOD WBC-3.6* RBC-2.74* Hgb-9.9* Hct-28.8* 
MCV-105* MCH-36.1* MCHC-34.4 RDW-12.0 RDWSD-45.7 Plt ___
___ 06:30AM BLOOD Neuts-58.5 ___ Monos-13.5* 
Eos-5.0 Baso-0.6 Im ___ AbsNeut-2.12 AbsLymp-0.79* 
AbsMono-0.49 AbsEos-0.18 AbsBaso-0.02
___ 06:30AM BLOOD Plt ___
___ 06:30AM BLOOD ___ PTT-29.8 ___
___ 06:30AM BLOOD Glucose-96 UreaN-10 Creat-0.8 Na-125* 
K-4.1 Cl-89* HCO3-26 AnGap-14
___ 06:30AM BLOOD ALT-15 AST-24 LD(LDH)-197 CK(CPK)-137 
AlkPhos-83 TotBili-0.2
___ 06:30AM BLOOD CK-MB-3 cTropnT-<0.01
___ 06:30AM BLOOD Albumin-3.9 Cholest-PND
___ 06:30AM BLOOD Osmolal-257*

IMAGING: 

CTA ___:
The internal carotid arteries demonstrate calcifications within 
the cavernous portions. There is approximately 50% narrowing 
within the paraclinoid portions bilaterally. The MCA's, ACAs and 
PCAs are well-opacified and normal. No aneurysms are identified. 
The intracranial vertebral arteries are normal and both 
contribute equally to the basilar artery. The basilar artery is 
unremarkable. There are no enhancing masses within the 
visualized brain parenchyma.
 
IMPRESSION:
Atherosclerotic disease is noted within the cavernous portions 
of
the internal carotid arteries. There are short foci of 
approximately
50% narrowing within the paraclinoid portions bilaterally.

NCHCT ___:
There is no intra or extra-axial mass, or hemorrhage. There is 
no midline shift. The ventricles, sulci and basilar cisterns are 
appropriate for patient's age. There are moderate 
periventricular white matter hypodensities and encephalomalacia 
involving the posterior right parietal lobe near the vertex. The 
gray-white matter differentiation is preserved. The paranasal 
sinuses and mastoid air cells are clear. The orbits are 
unremarkable. The surrounding soft tissues and osseous 
structures are intact.

Impression:
There are bilateral periventricular white matter hypodensities. 
This
is nonspecific and may represent small vessel ischemic changes 
or
given patient's history of MS this may represent demyelinating 
disease. There are also areas of subcortical hypodensity 
extending to the right frontal lobe and posterior right parietal 
lobe near the vertex. No prior studies are listed for comparison 
and these may represent old infarcts but acute process cannot be 
completely excluded.

MRI ___:

Impression: 

1. No acute intracranial hemorrhage or infarction. 
2. FLAIR hyperintense lesions are seen extending radially from 
the lateral 
ventricles in a perpendicular direction demonstrating a 
___ Fingers" appearance consistent with multiple 
sclerosis.  No pathologically enhancing lesions are identified. 
3. Additional periventricular FLAIR hyperintense lesions could 
be sequelae of chronic small vessel ischemic disease or MS 
plaques.  Possible gliosis from an old infarcts within the right 
frontal and parietal lobes cannot be excluded. 

 
Brief Hospital Course:
Mr. ___ is a ___ right handed man with PMH significant for 
relapsing remitting multiple sclerosis and HLD who presented for 
transient binocular diplopia. Admitted to the stroke service 
imaging CT, CTA with no acute process. MRI negative for an acute 
stroke however consistent with chronic MS plaques. Stroke risk 
factors assessed and stable. Etiology most likely related to 
anatomical distribution of MS plaques. ___ evaluated, recommended 
home with outpatient ___. Was advised to continue using his cane. 
He should follow with outpatient neurologist and PCP within one 
week of discharge. Of note was hyponatremic to 125, of unknown 
chronicity likely in the setting of tegretol use. Will need 
urgent follow up by PCP.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 600 mg PO TID 
2. CarBAMazepine 200 mg PO TID 
3. Plegridy (peginterferon beta-1a) 125 mcg/0.5 mL subcutaneous 
q other week 
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. Simvastatin 20 mg PO QPM 
6. BuPROPion (Sustained Release) 150 mg PO BID 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 150 mg PO BID 
2. CarBAMazepine 200 mg PO TID 
3. Gabapentin 600 mg PO TID 
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. Simvastatin 20 mg PO QPM 
6. Plegridy (peginterferon beta-1a) 125 mcg/0.5 mL subcutaneous 
q other week 
7. Outpatient Physical Therapy
Please evaluate and treat

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient diplopia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital with symptoms of transient 
double vision initially concerning for an acute stroke. We have 
imaged your brain and vessels with a CT, CTA, MRI which showed 
no evidence of acute bleed or evidence of stroke. It did however 
show chronic MS plaques which were stable.

We have assessed your stroke risk factors with hemoglobin A1C 
5.5% and LDL 154. You were evaluated by physical therapy who 
recommended you be discharged home with outpatient physical 
therapy. They also recommend you to use your cane at all times. 

Instructions:
Please continue all your medications as directed by this 
document.
Please do not hesitate to call with questions.

It has been a pleasure taking care of you,

___ Neurology Team 
 
Followup Instructions:
___